US06380242B1
(bb) 1-(3-(N,N-dimethylamino)propyl)-6-(3-pyridinyl)-1H-indole:
(9.8 mg, 13%); from 6-bromo-1-(3-(N,N-dimethylamino)propyl) indole (75.0 mg, 0.267 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (87.0 mg, 0.534 mmol).

reactant | 6-bromo-1-(3-(N,N-dimethylamino)propyl) indole | 0.267 mmol, 75.0 mg | BrC1=CC=C2C=CN(C2=C1)CCCN(C)C | C13H17BrN2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.534 mmol, 87.0 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | 1-(3-(N,N-dimethylamino)propyl)-6-(3-pyridinyl)-1H-indole | CN(C)CCCN1C=CC2=CC=C(C=C12)C=1C=NC=CC1 | C18H21N3
